US04579581
(a) Preparation of Methyl-[3-Methoxybenzoylamino(hydroxy)]acetate
3-Methoxybenzamide (13.25 g) and methyl glyoxylate (7.72 g) in toluene (150 ml) were heated under reflux in a Dean-Stark apparatus for 6 hours. On cooling the mixture the product separated and was crystallised from toluene. Yield, 12.0 g, m.p. 93°-94°.

reactant | 3-Methoxybenzamide | 13.25 g | COC=1C=C(C(=O)N)C=CC1 | C8H9NO2
reactant | methyl glyoxylate | 7.72 g | C(C=O)(=O)OC | C3H4O3
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl-[3-Methoxybenzoylamino(hydroxy)]acetate | COC(CONC(C1=CC(=CC=C1)OC)=O)=O | C11H13NO5
